US06184225B2
1-(2-Chloroethyl)piperidine hydrochloride (0.83 g, 4.5 mmol) was added to 7-hydroxy-6-methoxy-4-phenoxyquinazoline (1.0 g, 3.73mmol), (prepared as described for the starting material in Example 16), and potassium carbonate (2.6 g, 18.8 mmol) in DMF (30 ml), and the mixture heated at 110° C. for 2.5 hours and allowed to cool. The insolubles were removed by filtration, and the volatiles were removed from the filtrate by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (9/1) to give 6-methoxy-4-phenoxy-7-(2-piperidinoethoxy)quinazoline (1.2 g, 85%).

reactant | 1-(2-Chloroethyl)piperidine hydrochloride | 4.5 mmol, 0.83 g | Cl.ClCCN1CCCCC1
reactant | 7-hydroxy-6-methoxy-4-phenoxyquinazoline | 3.73mmol, 1.0 g | OC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C15H12N2O3
reactant | potassium carbonate | 18.8 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-phenoxy-7-(2-piperidinoethoxy)quinazoline | 1.2 g, 85% | COC=1C=C2C(=NC=NC2=CC1OCCN1CCCCC1)OC1=CC=CC=C1 | C22H25N3O3
